US08445495B2
To a room temperature solution of (R)-benzyl 4-(3-amino-2-fluorobenzyl)-2-methylpiperazine-1-carboxylate (250 mg, 0.70 mmol, 1.0 equiv) in dry THF (3 mL) was added 5-isocyanato-2-methylpyridine (94 mg, 0.70 mmol, 1.0 equiv). After 1 h, the reaction was complete, as determined by LCMS. The reaction was washed with aq. satd. NaHCO3 and brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (2%-10% MeOH/DCM) provided (R)-benzyl 4-(2-fluoro-3-(3-(6-methylpyridin-3-yl)ureido)benzyl)-2-methylpiperazine-1-carboxylate (244 mg, 71%). LCMS m/z (APCI)=492.2 (M+H).

reactant | (R)-benzyl 4-(3-amino-2-fluorobenzyl)-2-methylpiperazine-1-carboxylate | 0.70 mmol, 250 mg, 1.0 equiv | NC=1C(=C(CN2C[C@H](N(CC2)C(=O)OCC2=CC=CC=C2)C)C=CC1)F | C20H24FN3O2
reactant | 5-isocyanato-2-methylpyridine | 0.70 mmol, 94 mg, 1.0 equiv | N(=C=O)C=1C=CC(=NC1)C | C7H6N2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-benzyl 4-(2-fluoro-3-(3-(6-methylpyridin-3-yl)ureido)benzyl)-2-methylpiperazine-1-carboxylate | 244 mg, 71% | FC1=C(CN2C[C@H](N(CC2)C(=O)OCC2=CC=CC=C2)C)C=CC=C1NC(=O)NC=1C=NC(=CC1)C | C27H30FN5O3
